US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0470 g, 0.155 mmol) and (2-bromoethyl)benzene (0.045 mL, 0.329 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0457 g, 60.9%). EI-MS m/z 407(M+) Rt (2.14 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.155 mmol, 0.0470 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | (2-bromoethyl)benzene | 0.329 mmol, 0.045 mL | BrCCC1=CC=CC=C1 | C8H9Br
product | 4-[cyano(diphenyl)methyl]-1-(2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0457 g, 60.9% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H31N2.BrH/c30-24-29(26-12-6-2-7-13-26,27-14-8-3-9-15-27)28-17-21-31(22-18-28,23-19-28)20-16-25-10-4-1-5-11-25;/h1-15H,16-23H2;1H/q+1;/p-1
